US04464384
In 5 ml of anhydrous dichloromethane was dissolved 1.146 g of 2-[m-(p-methoxyphenylmethoxycarbonylacetoxy)phenyl]imidazo[2,1-b]benzothiazole and after adding thereto 0.4 ml of anisole, the mixture was cooled with ice-water. Then, 5 ml of trifluoroacetic acid was added dropwise to the mixture and the resultant mixture was stirred for one hour. The reaction mixture thus formed was concentrated under reduced pressure and the oily product thus obtained was dissolved in 10 ml of anhydrous tetrahydrofuran. Then, while stirring the mixture under ice-cooling, 2 ml of 2N hydrogen chloride ethanol solution was added to the solution and white crystals thus precipitated were recovered by filtration to provide 911 mg of 2-(m-carboxyacetoxyphenyl)imidazo[2,1-b]benzothiazole hydrochloride.

reactant | 2-[m-(p-methoxyphenylmethoxycarbonylacetoxy)phenyl]imidazo[2,1-b]benzothiazole | 1.146 g | COC1=CC=C(C=C1)COC(=O)CC(=O)OC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C26H20N2O5S
reactant | anisole | 0.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride ethanol | 2N, 2 ml | C(C)O.Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(m-carboxyacetoxyphenyl)imidazo[2,1-b]benzothiazole hydrochloride | 911 mg | Cl.C(=O)(O)CC(=O)OC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1)C=CC=C3 | InChI=1S/C18H12N2O4S.ClH/c21-16(22)9-17(23)24-12-5-3-4-11(8-12)13-10-20-14-6-1-2-7-15(14)25-18(20)19-13;/h1-8,10H,9H2,(H,21,22);1H
